US04126610
Into a reactor there are introduced 765 parts of bis-(β-cyanoethyl) sulfide, followed by 14.35 parts of cuprous bromide. On heating to 60° C. with continuous stirring, a brownish-yellow solution of the copper complex is obtained. 95.8 parts of 3-acetamido-4-(2'bromo-4',6'-dinitrophenylazo)N,N-diethylaniline are added, and the temperature is raised to 115° C. Raising the temperature to 115° C. causes the compound to completely dissolve. At ths temperature, a solution of 10.8 parts of sodium cyanide in 40 parts of water is introduced into the reactor during a period of 20 minutes, allowing the steam to escape. Stirring is continued for a further 20 to 30 minutes while verifying by thin layer chromatography that the starting organic bromo-derivative is absent. The reaction mass is cooled to 30-35° C., which causes crystallization of the dyestuff. The resultant product is filtered off, washed with water to displace the solvent contained in the paste, and dried. 80.2 parts of 3-acetamido-4 -(2'-cyano-4',6'-dinitro-phenylazo)-N,N-diethylaniline are obtained. The titre (purity) of this product is 98.5% and it contains a copper concentration of less than 3000 parts per million. The wash water is introduced into a decanter, and the organic solvent part is withdrawn and reunited with the fraction of solvent obtained during filtration. There are thus recovered 720 parts of bis-(β-cyanoethyl) sulfide which contain 4.35 parts of the cyanoazo dyestuff (giving an overall balance of the reaction of 98%) and 5.75 parts of copper (which corresponds to a recovery of 91% of the initial copper complex.

reactant | bis-(β-cyanoethyl) sulfide | C(#N)CCSCCC#N | C6H8N2S
reactant | 3-acetamido-4-(2'bromo-4',6'-dinitrophenylazo)N,N-diethylaniline | C(C)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])Br | C18H19BrN6O5
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | water | O | H2O
product | 3-acetamido-4 -(2'-cyano-4',6'-dinitro-phenylazo)-N,N-diethylaniline | C(C)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C#N | C19H19N7O5
